US03940411
Preparation of 1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide (IIIJ)
To a stirred solution of ethyl 1-methyl-5-nitro-2-imidazolecarboximidate (0.198 g., 0.001 mole) in 10 ml. of absolute ethanol is added thiosemicarbazide (0.091 g., 0.001 mole) and 1 ml. of glacial acetic acid. The mixture is heated at reflux for 1 1/4 hours and is cooled in an ice bath. The orange-red solid is filtered washed and dried affording 0.173 g. of the title compound, melting point 210°-214°, dec.

reactant | ethyl 1-methyl-5-nitro-2-imidazolecarboximidate | 0.001 mole, 0.198 g | CN1C(=NC=C1[N+](=O)[O-])C(OCC)=N | C7H10N4O3
reactant | ethanol | C(C)O | C2H6O
reactant | thiosemicarbazide | 0.001 mole, 0.091 g | NNC(=S)N | CH5N3S
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 1-(1-Methyl-5-nitro-2-imidazolecarboximidoyl)-3-thiosemicarbazide | CN1C(=NC=C1[N+](=O)[O-])C(=N)NNC(=S)N | C6H9N7O2S
